Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left ___ thenar space abscess 
 
Major Surgical or Invasive Procedure:
I&D through dorsal and pre-existing volar wounds with 
decompression of thenar space abscess

 
History of Present Illness:
___ is a ___ year old RHD male with PMH notable for
diabetes on metformin presents with progressively worsening left
___ erythema and pain. He lives in ___ and his business is
based out of ___, ___ and is here living in ___
until ___ for business. He reports that he was
working w/ pressurized wood about a week ago when a piece of 
wood
was dislodged into the into his left ___ - specifically the
thenar eminence. He thinks he was able to pull this piece out at
that time. He began to experience worsening pain and swelling 
and
about three days ago used a non-sterile knife for a self I&D 
with
purulent drainage. His symptoms unfortunately progressed
significantly, and presented to ___. 

He was transferred here for ___ evaluation. Here he was
afebrile, though tachycardic with WBC 15K. Rpt xrays here did 
not
show foreign body. 

ROS: as mentioned in the HPI, and otherwise negative in the
following systems: constitutional, skin, heme, lymphatic,
neurological, psychiatric, HEENT, pulmonary, cardiac,
gastrointestinal, genitourinary, musculoskeletal, endocrine, and
allergic/immune.

 
Past Medical History:
T2DM on metformin
 
Social History:
___
Family History:
NC
 
Physical Exam:
Temp: 97.6 PO BP: 143/94 R Lying HR: 74 RR: 18 O2
sat: 96% O2 delivery: Ra 

NAD, A&Ox4
nl resp effort

Left ___:
Swelling and erythema about the first web space improving. 
Unable
to make composite fist secondary to
swelling though patient remarks that ROM improving with improved
pain
volar and dorsal web space wounds well appearing for their age,
small quantity of purulent discharge expressed this AM  
Wrist flexion, extension, radial and ulnar deviation,
pronation and supination full
MCP, PIP, DIP flexion and extension full. 
Sensation grossly intact in median, ulnar, and
radial distributions. 
- Soft, non-tender arm and forearm compartments
 
Pertinent Results:
___ 02:30PM BLOOD WBC-15.4* RBC-4.64 Hgb-14.4 Hct-42.0 
MCV-91 MCH-31.0 MCHC-34.3 RDW-13.7 RDWSD-45.6 Plt ___
___ 02:30PM BLOOD Plt ___
___ 02:30PM BLOOD Glucose-178* UreaN-24* Creat-1.4* Na-143 
K-4.2 Cl-103 HCO3-24 AnGap-16
___ 08:35AM BLOOD WBC-7.1 RBC-4.10* Hgb-12.5* Hct-36.6* 
MCV-89 MCH-30.5 MCHC-34.2 RDW-13.4 RDWSD-44.3 Plt ___
___ 08:35AM BLOOD Neuts-72.5* Lymphs-15.8* Monos-9.4 
Eos-1.5 Baso-0.4 Im ___ AbsNeut-5.15 AbsLymp-1.12* 
AbsMono-0.67 AbsEos-0.11 AbsBaso-0.03
___ 08:35AM BLOOD Glucose-167* UreaN-19 Creat-0.8 Na-141 
K-3.7 Cl-105 HCO3-25 AnGap-11
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the ___ surgery team. The patient was found to 
have left thenar space abscess and was admitted to the ___ 
surgery service. The patient underwent I&D of left tehnar 
webspace with decompression of abscess, which the patient 
tolerated well. For full details of the procedure please see the 
separately dictated procedure note. The patient was initially 
given IV fluids and IV pain medications, and started on broad 
spectrum antibiotics. The patient's home metformin was held and 
he was placed on an insulin SS. The ___ hospital course 
was otherwise unremarkable. He was transitioned to PO Augmentin 
for abx at discharge.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient 
will follow up with Dr. ___ routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth 5 times daily Disp 
#*60 Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 14 Days 

RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*28 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*40 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN pain 
RX *oxycodone 5 mg 0.5 to 1 tablet(s) by mouth every four (4) 
hours Disp #*24 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*40 Tablet Refills:*0 
6.  MetFORMIN (Glucophage) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left ___ thenar space abscess 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ___ EXTREMITY SURGERY:

- You were in the hospital for care of your ___. It is normal 
to feel tired or "washed out" after hospitalization, and this 
feeling should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.
--- you will start the antibiotic AUGMENTIN to be taken twice 
daily for the next two weeks to treat/prevent infection, be sure 
to take this medication

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off.
- Splint must be left on until follow up appointment unless 
otherwise instructed

WOUND SOAKS:
- Please soak your ___ in dilute betadine three times 
daily for ___ minutes at a time
 - re-pack your wounds with gauze strips
-- be sure to dry your ___ and wounds meticulously between 
soaks
-- you may replace dry dressings over your wounds between soaks. 
-- keep your ___ dry otherwise

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

THIS PATIENT IS EXPECTED TO REQUIRE <30 DAYS OF REHAB
Treatments Frequency:
 
 
Followup Instructions:
___